US06451804B1
Sodium hydride (44 mg, 1.1 mmol (60% oil dispersion)) was added to a suspension of 3-(2-chlorophenyl)-7-(trans-4-tert-butyldimethylsilyloxycyclohexyl-amino)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (486 mg, 1 mmol) in 1-methyl-2-pyrrolidinone, and was stirred at room temperature for 25 minutes. To this solution was added benzyl bromide (0.12 mL 1 mmol) and stirred at room temperature for 4 hours. The reaction mixture was added to water and extracted with ethyl acetate. The layers were separated, and the organic layer was washed with water, dried with magnesium sulfate, concentrated in vacuo. The residue was purified by column chromatography using 25:75 acetone/hexane as eluant to give 1-benzyl-3-(2-chlorophenyl)-7-(trans4-tert-butyldimethylsilyloxycyclohexylamino)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as an oil.

reactant | Sodium hydride | 1.1 mmol, 44 mg | [H-].[Na+]
reactant | 3-(2-chlorophenyl)-7-(trans-4-tert-butyldimethylsilyloxycyclohexyl-amino)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 1 mmol, 486 mg | ClC1=C(C=CC=C1)N1C(NC2=NC(=NC=C2C1)N[C@@H]1CC[C@H](CC1)O[Si](C)(C)C(C)(C)C)=O | C24H34ClN5O2Si
reactant | benzyl bromide | 1 mmol, 0.12 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 1-benzyl-3-(2-chlorophenyl)-7-(trans4-tert-butyldimethylsilyloxycyclohexylamino)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | C(C1=CC=CC=C1)N1C(N(CC=2C1=NC(=NC2)N[C@@H]2CC[C@H](CC2)O[Si](C)(C)C(C)(C)C)C2=C(C=CC=C2)Cl)=O | C31H40ClN5O2Si
